US05550240
Preparation of 4-(1,1-dimethylethylamino)-6-(1-piperazinyl)-2-pyrrolidinopyrimidine
4-Chloro-6-(1,1-dimethylethylamino)-2-pyrrolidinopyrimidine is reacted with piperazine as described in Example 4 to give the title product in a yield of 67.5%, m.p.: 140°-145° C.

reactant | 4-Chloro-6-(1,1-dimethylethylamino)-2-pyrrolidinopyrimidine | ClC1=NC(=NC(=C1)NC(C)(C)C)N1CCCC1 | C12H19ClN4
reactant | piperazine | N1CCNCC1 | C4H10N2
product | 4-(1,1-dimethylethylamino)-6-(1-piperazinyl)-2-pyrrolidinopyrimidine | yield of 67.5% | CC(C)(C)NC1=NC(=NC(=C1)N1CCNCC1)N1CCCC1 | C16H28N6
